US06906060B2
1-(4-Chlorophenyl)-4-((S)-hexahydropyrrolo[1,2-a]pyrazin-2-yl)butane-1,4-dione
279 mg of the title compound were prepared as described for 1-(3,4-dimethoxyphenyl)-4-((S)-hexahydropyrrolo[1,2-a]pyrazin-2-yl)butane-1,4-dione, using 3-(4-chlorobenzoyl)propionic acid instead of 3-(3,4-dimethoxybenzoyl)propionic acid.

reactant | 1-(3,4-dimethoxyphenyl)-4-((S)-hexahydropyrrolo[1,2-a]pyrazin-2-yl)butane-1,4-dione | COC=1C=C(C=CC1OC)C(CCC(=O)N1C[C@H]2N(CC1)CCC2)=O | C19H26N2O4
reactant | 3-(4-chlorobenzoyl)propionic acid | ClC1=CC=C(C(=O)CCC(=O)O)C=C1 | C10H9ClO3
product | 1-(4-Chlorophenyl)-4-((S)-hexahydropyrrolo[1,2-a]pyrazin-2-yl)butane-1,4-dione | 279 mg | ClC1=CC=C(C=C1)C(CCC(=O)N1C[C@H]2N(CC1)CCC2)=O | C17H21ClN2O2
